US07230099B2
Step A: Preparation of 7-(4-Bromo-2-fluorophenylamino)-8-chloroimidazo[1,2-a]pyridine-6-carboxylic acid hydrazide.
7-(4-Bromo-2-fluoro-phenylamino)-8-chloro-imidazo[1,2-a]pyridine-6-carboxylic acid was converted to the hydrazide according to the coupling conditions described in Step A of Example 3. Alternatively, the hydrazide can be prepared directly from 7-(4-Bromo-2-fluorophenylamino)-8-chloroimidazo[1,2-a]pyridine-6-carboxylic acid methyl ester by refluxing with hydrazine in ethanol. MS ESI (+) m/z 398, 400 (M+, Cl, Br pattern) detected.

reactant | 7-(4-Bromo-2-fluoro-phenylamino)-8-chloro-imidazo[1,2-a]pyridine-6-carboxylic acid | BrC1=CC(=C(C=C1)NC1=C(C=2N(C=C1C(=O)O)C=CN2)Cl)F | C14H8BrClFN3O2
reactant | 7-(4-Bromo-2-fluorophenylamino)-8-chloroimidazo[1,2-a]pyridine-6-carboxylic acid methyl ester | COC(=O)C=1C(=C(C=2N(C1)C=CN2)Cl)NC2=C(C=C(C=C2)Br)F | C15H10BrClFN3O2
reactant | hydrazine | NN | H4N2
solvent | ethanol | C(C)O | C2H6O
product | 7-(4-Bromo-2-fluorophenylamino)-8-chloroimidazo[1,2-a]pyridine-6-carboxylic acid hydrazide | BrC1=CC(=C(C=C1)NC1=C(C=2N(C=C1C(=O)NN)C=CN2)Cl)F | C14H10BrClFN5O
